US07989449B2
2-(3,5-Dibromo-phenyl)-ethanol [75894-93-8]
A solution of (3,5-dibromo-phenyl)acetic acid (1.543 g, 5.2 mmol) in tetrahydrofuran (40 mL) was cooled to 0° C. Within 30 minutes borane tetrahydrofuran complex (1 M, 9.19 mL) was added. After complete addition the ice bath was removed and the reaction mixture warmed to room temperature within 25 minutes. After 3 hours, the mixture was cooled to −2° C., quenched by addition of methanol (10 mL) and evaporated under reduced pressure. The residue was dissolved in dichloromethane, the resulting solution was washed with hydrochloric acid (1 N, 50 mL), a saturated solution of sodium hydrogencarbonate (50 mL), and brine. The organic layer was dried over sodium sulfate and evaporated under reduced pressure and yielded. The residue was chromatographed on silica gel using a gradient of heptane/ethyl acetate=100/0 to 2/1 as the eluent. There were obtained 1.29 g (88% of theory) of the title compound as a light yellow oil.

reactant | (3,5-dibromo-phenyl)acetic acid | 5.2 mmol, 1.543 g | BrC=1C=C(C=C(C1)Br)CC(=O)O | C8H6Br2O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(3,5-Dibromo-phenyl)-ethanol | BrC=1C=C(C=C(C1)Br)CCO | C8H8Br2O
